US06465467B1
2,3-Dihydro-1,4-benzodioxin-2-ylmethyl 3-(1,4-diazepan-1-yl)-2-pyrazinyl Ether
The title compound was prepared according to the procedure described in Example 4, Step 2, starting from 2-chloro-3-(2,3-dihydro-1,4-benzodioxin-2-ylmethoxy)pyrazine* (150 mg, 0.54 mmol) and homopiperazine (266 mg, 2.66 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 105 mg (57%) of the title product. Anal. (C18H24N4O3) H, N; C: calcd, 63.14; found, 62.70.

reactant | 2-chloro-3-(2,3-dihydro-1,4-benzodioxin-2-ylmethoxy)pyrazine | ClC1=NC=CN=C1OCC1COC2=C(O1)C=CC=C2 | C13H11ClN2O3
reactant | homopiperazine | 2.66 mmol, 266 mg | N1CCNCCC1 | C5H12N2
product | 2,3-Dihydro-1,4-benzodioxin-2-ylmethyl 3-(1,4-diazepan-1-yl)-2-pyrazinyl Ether | N1(CCNCCC1)C=1C(=NC=CN1)OCC1COC2=C(O1)C=CC=C2 | C18H22N4O3
